US09062070B2
Step C: tert-butyl 4-(2-hydroxy-2-(4-methyl-1-oxo-1,3-dihydroisobenzofuran-5-yl)ethyl)-3-(2-hydroxyethyl)piperazine-1-carboxylate
tert-Butyl 3-(2-hydroxyethyl)-4-(2-(4-methyl-1-oxo-1,3-dihydroisobenzofuran-5-yl)-2-oxoethyl)piperazine-1-carboxylate (6.16 g, 14.7 mmol) was dissolved in methanol (100 mL) at 0° C. and then NaBH4 (1.67 g, 44.2 mmol) was added. The reaction mixture was warmed up to RT. After ten minutes, TLC showed no SM left. The methanol was evaporated and the residue was taken up with brine and extracted with ethyl acetate twice. The combined organic layers were dried with MgSO4, filtered and concentrated. The crude product was chromatographed through an ISCO 330 g Redi-sep column and eluted with 5% MeOH/DCM to yield the title compound: LC-MS (IE, m/z): 421 [M+1]+.

reactant | tert-Butyl 3-(2-hydroxyethyl)-4-(2-(4-methyl-1-oxo-1,3-dihydroisobenzofuran-5-yl)-2-oxoethyl)piperazine-1-carboxylate | 14.7 mmol, 6.16 g | OCCC1CN(CCN1CC(=O)C=1C(=C2COC(C2=CC1)=O)C)C(=O)OC(C)(C)C | C22H30N2O6
reactant | NaBH4 | 44.2 mmol, 1.67 g | [BH4-].[Na+]
solvent | methanol | 100 mL | CO | CH4O
product | tert-butyl 4-(2-hydroxy-2-(4-methyl-1-oxo-1,3-dihydroisobenzofuran-5-yl)ethyl)-3-(2-hydroxyethyl)piperazine-1-carboxylate | OC(CN1C(CN(CC1)C(=O)OC(C)(C)C)CCO)C=1C(=C2COC(C2=CC1)=O)C | C22H32N2O6
